US07893056B2
Commercially-available (S)—N-1-Boc-2-isopropylpiperazine (2.0 g, 8.76 mmol), sodium triacetoxyborohydride (2.76 g, 13 mmol), and formaldehyde (37% in H2O, 1.06 mL, 13 mmol) were dissolved and stirred in CH2Cl2 (40 mL) overnight at room temperature. After this time, the reaction mixture was diluted with additional CH2Cl2 and washed with 1 N NaOH and brine. The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to provide 1,1-dimethylethyl (2S)-4-methyl-2-(1-methylethyl)-1-piperazinecarboxylate (2.18 g) as a colorless oil.

reactant | (S)—N-1-Boc-2-isopropylpiperazine | 8.76 mmol, 2.0 g | CC(C)[C@H]1CNCCN1C(=O)OC(C)(C)C | C12H24N2O2
reactant | sodium triacetoxyborohydride | 13 mmol, 2.76 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 13 mmol, 1.06 mL | C=O | CH2O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (2S)-4-methyl-2-(1-methylethyl)-1-piperazinecarboxylate | 2.18 g | CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(C)C | C13H26N2O2
